US04595690
A solution of 3.5 g of 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-[2-(4-methoxycarbonylmethylaminophenyl)ethoxycarbonyl]-1,4-dihydropyridine hydrochloride salt in water (50 ml) is adjusted to pH 12 with NH4OH solution and extracted with methylene chloride. The methylene chloride is then evaporated to afford 3 g of 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-[2-(4-methoxycarbonylmethylaminophenyl)ethoxycarbonyl]-1,4-dihydropyridine as the free base.

reactant | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-[2-(4-methoxycarbonylmethylaminophenyl)ethoxycarbonyl]-1,4-dihydropyridine hydrochloride salt | 3.5 g | Cl.CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC1=CC=C(C=C1)NCC(=O)OC)C
reactant | NH4OH | [NH4+].[OH-]
solvent | water | 50 ml | O | H2O
product | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-[2-(4-methoxycarbonylmethylaminophenyl)ethoxycarbonyl]-1,4-dihydropyridine | 3 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC1=CC=C(C=C1)NCC(=O)OC)C | C27H29N3O8
